US05482936
Butyllithium (1.6 mL of 2.5M in hexanes, 4 mmole) was added to a chilled (dry ice/acetone bath) solution of N,N-bis(phenylmethyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.7 g, 4 mmole) in tetrahydrofuran. No color change was observed. The reaction mixture was warmed to -20° C. (dry ice/carbon tetrachloride) and the reaction turned red in color. Formaldehyde gas entrained in a flow of nitrogen was added to the reaction mixture. After several minutes the reaction turned to a solid mass and the ice bath was removed. The reaction mixture was allowed to warm to ambient temperature and the color of the reaction mixture changed from red to yellow. The reaction was diluted with diethyl ether and water. The ether layer was separated, dried over magnesium sulfate and then concentrated under vacuum. The residue was purified by column chromatography (silica gel eluting with 10-20% ethyl acetate in hexanes v/v) to provide 1 g of 4-bis(phenylmethyl)amino-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-2-methanol.

reactant | Butyllithium | 4 mmole, 2.5M, 1.6 mL | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | N,N-bis(phenylmethyl)-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | 4 mmole, 1.7 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=CN2COCC)CC2=CC=CC=C2 | C27H26N4O
reactant | dry ice carbon tetrachloride | C(=O)=O.C(Cl)(Cl)(Cl)Cl
reactant | Formaldehyde | C=O | CH2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-bis(phenylmethyl)amino-1-ethoxymethyl-1H-imidazo[4,5-c]quinolin-2-methanol | 1 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2COCC)CO)CC2=CC=CC=C2 | C28H28N4O2
